US08580957B2
(2S,4R)-1-Acetyl-6-bromo-2-methyl-1,2,3,4-tetrahydro-4-quinolinamine (for a preparation see intermediate 51) (4.24 g, 14.98 mmol) was dissolved in MeOH (20 mL) and the solution treated with HCl (1M in MeOH, 16.47 mL, 16.47 mmol). The resulting mixture was concentrated in vacuovacuo. The reside was co-evaporated with Et2O to give (2S,4R)-1-acetyl-6-bromo-2-methyl-1,2,3,4-tetrahydro-4-quinolinamine hydrochloride (4.255 g, 12.65 mmol, 84% yield) as a light brown solid.

reactant | (2S,4R)-1-Acetyl-6-bromo-2-methyl-1,2,3,4-tetrahydro-4-quinolinamine | C(C)(=O)N1[C@H](C[C@H](C2=CC(=CC=C12)Br)N)C | C12H15BrN2O
reactant | HCl | 16.47 mmol, 1M, 16.47 mL | Cl | ClH
solvent | MeOH | 20 mL | CO | CH4O
product | (2S,4R)-1-acetyl-6-bromo-2-methyl-1,2,3,4-tetrahydro-4-quinolinamine hydrochloride | 12.65 mmol, 4.255 g, 84% yield | Cl.C(C)(=O)N1[C@H](C[C@H](C2=CC(=CC=C12)Br)N)C | InChI=1S/C12H15BrN2O.ClH/c1-7-5-11(14)10-6-9(13)3-4-12(10)15(7)8(2)16;/h3-4,6-7,11H,5,14H2,1-2H3;1H/t7-,11+;/m0./s1
